US06432955B1
(2-Methoxy-1-methoxymethyl-ethoxy)-benzene (1.0 g) was dissolved in 10 mL of chloroform and the solution was cooled to −30° C. Chlorosulfonic acid (1 ml) was added dropwise while maintaining the temperature of the mixture below −20° C. Stirring was continued in succession for one hour at −20° C., for one hour at 5oC and for 30 minutes at room temperature. The mixture was poured on ice, the organic layer washed with cold water, dried (sodium sulfate) and concentrated yielding 0.8 g of 4-(2-methoxy-1-methoxymethyl-ethoxy)-benzenesulfonyl chloride as an oil. EI-MS: 294 (M+).

reactant | (2-Methoxy-1-methoxymethyl-ethoxy)-benzene | 1.0 g | COCC(OC1=CC=CC=C1)COC | C11H16O3
reactant | Chlorosulfonic acid | 1 ml | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-methoxy-1-methoxymethyl-ethoxy)-benzenesulfonyl chloride | 0.8 g | COCC(OC1=CC=C(C=C1)S(=O)(=O)Cl)COC | C11H15ClO5S
